US07919519B2
Methyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate (25.00 g, 82.7 mmol), copper (1) iodide (3.14 g, 16.5 mmol), (trimethylsilyl)acetylene (81.9 mL, 579 mmol), bis(triphenylphosphine)palladium(ii) chloride (5.81 g, 8.27 mmol), and Hunig's base (115 mL, 662 mmol) was added in a sealable tube along with 100 mL THF. The reaction is sealed and heated to 80° C. under vigorous stirring for 24 h. The mixture was cooled to room temperature, filtered and evaporated. The resulting oil was purified using Biotage (75 L, 0-50% EtOAc/hexanes) affording methyl 1-(3-fluoro-4-(2-(trimethylsilyl)ethynyl)benzyl)azetidine-3-carboxylate as a transparent brown oil. MS (ESI) m/z: Calculated: 319.1; Observed: 320.1 (M++1).

reactant | Methyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate | 82.7 mmol, 25.00 g | BrC1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C12H13BrFNO2
reactant | (trimethylsilyl)acetylene | 579 mmol, 81.9 mL | C[Si](C)(C)C#C | C5H10Si
reactant | Hunig's base | 662 mmol, 115 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | copper (1) iodide | 16.5 mmol, 3.14 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(ii) chloride | 8.27 mmol, 5.81 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | methyl 1-(3-fluoro-4-(2-(trimethylsilyl)ethynyl)benzyl)azetidine-3-carboxylate | FC=1C=C(CN2CC(C2)C(=O)OC)C=CC1C#C[Si](C)(C)C | C17H22FNO2Si
